US07420083B2
This compound was produced using similar methods as those used in Step 5, example 27, starting with 4-(3-bromo-propoxy)-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester (0.56 g, 1.18 mmol), 3,5-bis-trifluoromethyl-benzaldehyde oxime (0.32 g, 1.23 mmol) and cesium carbonate (1.53 g, 4.70 mmol) in acetone (35 mL). The crude material was purified by flash chromatography through silica gel using diethyl ether/hexanes (0/100 gradient to 10/90) to give 4-{3-[({(1E)-[3,5-bis(trifluoromethyl)phenyl]methylidene}amino)oxy]propoxy}-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid methyl ester (0.61 g, 94%) as a white solid. 1H NMR (400 MHz, CDCl3); δ 12.26 (s, 1H), 8.56 (d, 1H), 8.13 (s, 1H), 8.06 (d, 2H), 7.98 (d, 1H), 7.97 (s, 2H), 7.80 (s, 1H), 7.33 (d, 2H), 6.64 (dd, 1H), 4.41 (t, 2H), 4.22 (t, 2H), 3.91 (s, 3H), 2.24 (m, 2H).

reactant | 4-(3-bromo-propoxy)-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester | 1.18 mmol, 0.56 g | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C19H17BrF3NO5
reactant | 3,5-bis-trifluoromethyl-benzaldehyde oxime | 1.23 mmol, 0.32 g | FC(C=1C=C(C=NO)C=C(C1)C(F)(F)F)(F)F | C9H5F6NO
reactant | cesium carbonate | 4.70 mmol, 1.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 4-{3-[({(1E)-[3,5-bis(trifluoromethyl)phenyl]methylidene}amino)oxy]propoxy}-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid methyl ester | 0.61 g, 94% | COC(C1=C(C=C(C=C1)OCCCO/N=C/C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C28H21F9N2O6
